US07981874B2
4-(4-Methoxyphenyl)-1-methyl-1,4-azaphosphinane 4-oxide.
(4-Methoxyphenyl)(divinyl) phosphine oxide (1.22 g, 5.88 mmol) and methylamine (0.53 mL, 6.18 mmol, 40% in water) was heated to 90° C. for 2 h. The reaction mixture was cooled to ambient temperature then extracted with DCM (3×). The combined organic extracts were dried (MgSO4) then concentrated in vacuo to afford the requisite product. MS: cal'd 240 (MH+), exp 240 (MH+)

reactant | (4-Methoxyphenyl)(divinyl) phosphine oxide | 5.88 mmol, 1.22 g | COC1=CC=C(C=C1)P(C=C)(C=C)=O | C11H13O2P
reactant | methylamine | 6.18 mmol, 0.53 mL | CN | CH5N
product | 4-(4-Methoxyphenyl)-1-methyl-1,4-azaphosphinane 4-oxide | COC1=CC=C(C=C1)P1(CCN(CC1)C)=O | C12H18NO2P
